US09079909B2
To a degassed solution of phenylacetylene (157 μl, 1.43 mmol) and Et3N (3.3 mL) in DMF (1.2 mL) were added N-(3-(2-chlorophenyl)-4-iodo-1-methyl-1H-pyrazol-5-yl)acetamide (413 mg, 1.1 mmol), CuI (42 mg, 0.22 mmol) and PdCl2(PPh3)2 (77 mg, 0.11 mmol). The mixture was flushed with N2 and then heated to 85° C. for 3 h. The reaction mixture was concentrated in metro and the residue was purified by column chromatography (silica gel, gradient 0 to 100% ethyl acetate/isohexane) yielding N-(3-(2-chlorophenyl)-1-methyl-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide as a solid (181 mg).

reactant | phenylacetylene | 1.43 mmol, 157 μl | C1(=CC=CC=C1)C#C | C8H6
reactant | Et3N | 3.3 mL | CCN(CC)CC | C6H15N
reactant | N-(3-(2-chlorophenyl)-4-iodo-1-methyl-1H-pyrazol-5-yl)acetamide | 1.1 mmol, 413 mg | ClC1=C(C=CC=C1)C1=NN(C(=C1I)NC(C)=O)C | C12H11ClIN3O
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.22 mmol, 42 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.11 mmol, 77 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(3-(2-chlorophenyl)-1-methyl-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 181 mg | ClC1=C(C=CC=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)NC(C)=O)C | C20H16ClN3O
